* C:\Robak\EMC_APP_CLAUDE\examples\case_003_DCDC_eval\input\LTC7800.asc
* Generated by LTspice 26.0.2 for Windows.
M§Q1 IN N003 N005 N005 RJK0305DPB
L1 N005 N006 .33µ Rser=1.5m
C1 OUT 0 150µ Rser=5m
R1 OUT N011 357K
R2 N011 0 115K
C2 N004 N005 .1µ
C3 N001 0 4.7µ
C4 N010 0 820p Rser=2.49K
C5 N009 0 .01µ
V1 IN 0 12
D1 N001 N004 CMDSH2-3
M§Q2 N005 N008 0 0 RJK0301DPB
Rload OUT 0 .66
R4 N006 OUT 4m
R3 N007 0 100K
V2 N002 0 3.3
X§U1 OUT N007 MP_01 MP_02 NC_03 0 N002 MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 MP_10 MP_11 MP_12 MP_13 MP_14 N001 NC_15 0 IN N008 N004 N005 N003 NC_16 NC_17 N009 N010 N011 N006 LTC7800 ;§pnba Sense-)Freq)))PLLIN/Mode)SGND)Run))))))))))))INTVcc)EXTVcc)PGND)Vin)BG)Boost)SW)TG)Pgood)Ilim)Track/SS)Ith)Vfb)Sense+
.model D D
.lib C:\Users\robak\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\robak\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1m startup
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\robak\AppData\Local\LTspice\lib\sym\PowerProducts\LTC7800.asy)
.lib LTC7800.sub
.backanno
.end
